US07550607B2
To a solution of cis-3-acetoxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester (52 mg, 0.25 mmol) in THF (5 ml) was added LiAlH4 (60 mg, 1.60 mmol). The resulting solution was stirred at ambient temperature for 15 min. The reaction was quenched by addition of H2O (10 ml). The solution was diluted with EtOAc (50 ml×2), washed with brine (50 ml), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography with 20% EtOAc-hexane to give cis-2-hydroxymethyl-3,6-dihydro-2H-pyran-3-ol

reactant | cis-3-acetoxy-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 0.25 mmol, 52 mg | C(C)OC(=O)[C@@H]1OCC=C[C@@H]1OC(C)=O | C10H14O5
reactant | LiAlH4 | 1.60 mmol, 60 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cis-2-hydroxymethyl-3,6-dihydro-2H-pyran-3-ol | OC[C@@H]1OCC=C[C@@H]1O | C6H10O3
